US08703768B2
Step 3: 7-Amino-2-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid methylamide
According to the procedure described in step 1 of example 18 7-amino-2-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid ethyl ester was reacted with methylamine hydrochloride to give the title compound as off-white solid (60%).

reactant | 7-amino-2-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)N | C16H15N3O2
reactant | methylamine hydrochloride | Cl.CN
product | 7-Amino-2-phenyl-imidazo[1,2-a]pyridine-6-carboxylic acid methylamide | 60% | CNC(=O)C=1C(=CC=2N(C1)C=C(N2)C2=CC=CC=C2)N | C15H14N4O
